US09029189B2
Step 3.2. (2-Chloro-1,1-dimethyl-ethyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine hydroiodide (X)
In a 1 L three necked round bottom flask, 48.26 g (0.169 mol) of 2-(4,5-dihydro-1H-imidazol-2-ylamino)-2-methyl-propan-1-ol hydroiodide was dissolved in 400 mL of chloroform. To this, 15 mL (24.46 g, 0.206 mol) of thionyl chloride was added dropwise at room temperature. The reaction was then refluxed for 36 hours after which the solvent was removed by vacuum. The product retained too much solvent after this to afford a yield calculation. NMR 3.56 (s, 4H), 3.35 (m, 2H), 1.28 (d, 6H).

reactant | 2-(4,5-dihydro-1H-imidazol-2-ylamino)-2-methyl-propan-1-ol hydroiodide | 0.169 mol, 48.26 g | I.N1C(=NCC1)NC(CO)(C)C
reactant | thionyl chloride | 0.206 mol, 15 mL, 24.46 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | (2-Chloro-1,1-dimethyl-ethyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine hydroiodide | I.ClCC(C)(C)NC=1NCCN1 | InChI=1S/C7H14ClN3.HI/c1-7(2,5-8)11-6-9-3-4-10-6;/h3-5H2,1-2H3,(H2,9,10,11);1H
